US07192956B2
A solution of tert-butyl [2-(1-hydroxycyclobutyl)phenyl]carbamate (0.86 g, 3.3 mmol) in ethanol (30 mL) was stirred with potassium hydroxide (0.39 g, 6.9 mmol) at room temperature for 3 hours. The product was extracted with ethyl acetate (50 mL), dried with sodium sulfate, and concentrated to give spiro[3,1-benzoxazine-4,1′-cyclobutan]-2(1H)-one (0.36 g, 58%) as a white solid. 1H NMR (DMSO-d6): δ 10.21 (s, 1H), 7.47 (dd, 1H, J=7.6, 1.2 Hz), 7.28 (td, 1H, J=7.6, 1.4 Hz), 7.08 (td, 1H, J=7.5, 1.2 Hz), 6.9 (dd, 1H, J=7.9, 0.9 Hz), 2.49–2.41 (m, 2H), 2.06–1.96 (m, 2H), 1.88–1.77 (m, 2H). MS (ESI) m/z 190 ([M+H]+).

reactant | tert-butyl [2-(1-hydroxycyclobutyl)phenyl]carbamate | 3.3 mmol, 0.86 g | OC1(CCC1)C1=C(C=CC=C1)NC(OC(C)(C)C)=O | C15H21NO3
reactant | potassium hydroxide | 6.9 mmol, 0.39 g | [OH-].[K+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | spiro[3,1-benzoxazine-4,1′-cyclobutan]-2(1H)-one | 0.36 g, 58% | C12(CCC1)OC(NC1=C2C=CC=C1)=O | C11H11NO2
